datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(CC[NH2:10])Oc1ccc([N+](=O)[O-])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC[NH2+:10][H:20])Oc1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"CC(C)NC=[N+:21](c1ccc(-c2c[nH]cn2)cc1)[H:20].COc1c[n:10]ccc1N>>CC(C)NC=[N:21]c1ccc(-c2c[nH]cn2)cc1.COc1c[n+:10]([H:20])ccc1N 10=20;20,21=21",
"C=C[C@]1(O)C[NH+]2CC[C@H]1C[C@@H]2[C@@H](O)c1cc[n+:21]([H:20])c2ccc(OC)cc12.CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1>>C=C[C@]1(O)C[NH+]2CC[C@H]1C[C@@H]2[C@@H](O)c1cc[n:21]c2ccc(OC)cc12.CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1 10=20;20,21=21",
"C[N+:21](C)(c1ccc(N)cc1)[H:20].c1ccc(C2SCC[NH:10]2)cc1>>C[N:21](C)c1ccc(N)cc1.c1ccc(C2SCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CC(=O)[N-:10]Br.O=S1(=O)NCNc2cc(Cl)c(S(=O)(=O)[NH:21][H:20])cc21>>CC(=O)[N:10](Br)[H:20].O=S1(=O)NCNc2cc(Cl)c(S(=O)(=O)[NH-:21])cc21 10=20;20,21=21",
"CCc1ccc[n:10]c1.O=[N+]([O-])c1cc2[nH]c[n+:21]([H:20])c2cc1[N+](=O)[O-]>>CCc1ccc[n+:10]([H:20])c1.O=[N+]([O-])c1cc2[nH]c[n:21]c2cc1[N+](=O)[O-] 10=20;20,21=21",
"CC1(C)NC(=S)[N:21]([H:20])C1=S.COc1ccccc1-c1ccccc1[O-:10]>>CC1(C)NC(=S)[N-:21]C1=S.COc1ccccc1-c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CCC(P)C(=O)[O-:10].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>CCC(P)C(=O)[O:10][H:20].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"CCCC[S-:10].Cc1cc[n+:21]([H:20])c(/N=C/c2ccc([N+](=O)[O-])cc2)n1>>CCCC[S:10][H:20].Cc1cc[n:21]c(/N=C/c2ccc([N+](=O)[O-])cc2)n1 10=20;20,21=21",
"CCN[N:10](C)C.Cc1cncc[n+:21]1[H:20]>>CCN[N+:10](C)(C)[H:20].Cc1cncc[n:21]1 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)(C(=O)[O-])[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"COc1ccccc1/C=C/C=N/[O-:10].O=C(O)c1ccc[o+:21]1[H:20]>>COc1ccccc1/C=C/C=N/[O:10][H:20].O=C(O)c1ccc[o:21]1 10=20;20,21=21",
"CCP(=S)(CC)C(=S)N[NH2+:21][H:20].Nc1c2ccccc2[n:10]c2c(N)cccc12>>CCP(=S)(CC)C(=S)N[NH2:21].Nc1c2ccccc2[n+:10]([H:20])c2c(N)cccc12 10=20;20,21=21",
"O[C@H]1CCC[C@@H]([NH2:10])C1.Oc1cccc([O:21][H:20])c1>>O[C@H]1CCC[C@@H]([NH2+:10][H:20])C1.Oc1cccc([O-:21])c1 10=20;20,21=21",
"CNc1ccc(S(=O)(=O)[N:21](c2nc(C)cs2)[H:20])cc1.C[C@]1(N)C[C@]1(C)[NH2:10]>>CNc1ccc(S(=O)(=O)[N-:21]c2nc(C)cs2)cc1.C[C@]1(N)C[C@]1(C)[NH2+:10][H:20] 10=20;20,21=21",
"CCc1c[n:10]ccc1N.OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n+:21]2[H:20])o1>>CCc1c[n+:10]([H:20])ccc1N.OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n:21]2)o1 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2+:21][H:20])c2)c(Cl)c1Cl.O=C1C=Cc2ccccc2C=C1[O-:10]>>CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2:21])c2)c(Cl)c1Cl.O=C1C=Cc2ccccc2C=C1[O:10][H:20] 10=20;20,21=21",
"CCC[N:10](CC(O)CC)CC(O)CC.FC(F)(F)c1[nH]c2cncnc2[n+:21]1[H:20]>>CCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].FC(F)(F)c1[nH]c2cncnc2[n:21]1 10=20;20,21=21",
"CCC(C)C(=O)CC[N+:21]1([H:20])CCOCC1.COCC[N:10](C)C>>CCC(C)C(=O)CC[N:21]1CCOCC1.COCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.Cn1cnc2c[n+:21]([H:20])c([O-])nc21>>COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].Cn1cnc2c[n:21]c([O-])nc21 10=20;20,21=21",
"COc1cc(C)nc(NN)[n:10]1.O=[N+]([O-])c1ccc([Se](=O)[O:21][H:20])cc1>>COc1cc(C)nc(NN)[n+:10]1[H:20].O=[N+]([O-])c1ccc([Se](=O)[O-:21])cc1 10=20;20,21=21",
"CC[C@@H](C(=O)[O:21][H:20])[C@@]1(O)C[C@H]2CC[C@@H]1C2.Cc1cc(C)c2cccc([O-:10])c2n1>>CC[C@@H](C(=O)[O-:21])[C@@]1(O)C[C@H]2CC[C@@H]1C2.Cc1cc(C)c2cccc([O:10][H:20])c2n1 10=20;20,21=21",
"CC(C)C[NH:10]CC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C[NH+:10](CC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH2:10].COC(=O)c1ccc([O:21][H:20])cc1>>CCCC[NH2+:10][H:20].COC(=O)c1ccc([O-:21])cc1 10=20;20,21=21",
"CSc1ncnc2c1cn[n:21]2[H:20].c1cc2cn[nH]c2cc1[NH2:10]>>CSc1ncnc2c1cn[n-:21]2.c1cc2cn[nH]c2cc1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O:21][H:20].C[C@H]1CCCC[C@@H]1[NH2:10]>>CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O-:21].C[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CCC[NH:10]Cc1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC[NH+:10](Cc1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)N(C)[O-:10].Cn1nc(Cl)nc1[N:21](N=O)[H:20]>>CC(=O)N(C)[O:10][H:20].Cn1nc(Cl)nc1[N-:21]N=O 10=20;20,21=21",
"CCSC(C)(O)[OH+:21][H:20].O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]ccc([O-:10])c3c2)[C@@H](O)[C@H](O)[C@H]1O>>CCSC(C)(O)[OH:21].O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]ccc([O:10][H:20])c3c2)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"Cc1cc(C(F)(F)F)[n:10][nH]1.O=[N+]([O-])c1cccc2cc([NH2+:21][H:20])ccc12>>Cc1cc(C(F)(F)F)[n+:10]([H:20])[nH]1.O=[N+]([O-])c1cccc2cc([NH2:21])ccc12 10=20;20,21=21",
